US07629375B2
A solution of 3-{4-[2-(3,4-bis-methoxymethoxy-phenyl)-vinyl]-phenyl}-3-oxo-propionic acid ethyl ester (400 mg) and hydrazine (excess) in EtOH (30 mL) was stirred at 90° C. for 5 hours. Evaporation and purification by flash chromatography eluted with 5-10% MeOH in DCM gave 5-{4-[2-(3,4-bis-methoxymethoxy-phenyl)-vinyl]-phenyl}-2-phenyl-2,4-dihydro-pyrazol-3-one as a yellow oil (260 mg). 1H NMR (CDCl3, 300 MHz): 7.95 (d, J=8.7 Hz, 2H), 7.62 (d, J=8.7 Hz, 2H), 7.40-7.00(m, 7H), 6.90 (d, 1H), 6.58 (d, J=12.0 Hz, 1H), 6.50 (d, J=12.0 Hz, 1H) 5.21, 5.07(2s, 4H, MOM), 3.78(s, 2H), 33.51, 3.41 (2s, 6H, MOM) ppm. 13C NMR (CDCl3, 75 MHz 170.65, 154.82, 147.23, 147.15, 140.38, 138.53, 131.56, 129.84, 129.68, 129.29, 128.88, 126.17, 125.69, 123.72, 119.42, 117.83, 116.67, 56.69, 56.52, 40.03 ppm. MS: 459 (MH+).

reactant | 3-{4-[2-(3,4-bis-methoxymethoxy-phenyl)-vinyl]-phenyl}-3-oxo-propionic acid ethyl ester | 400 mg | C(C)OC(CC(=O)C1=CC=C(C=C1)C=CC1=CC(=C(C=C1)OCOC)OCOC)=O | C23H26O7
reactant | hydrazine | NN | H4N2
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-{4-[2-(3,4-bis-methoxymethoxy-phenyl)-vinyl]-phenyl}-2-phenyl-2,4-dihydro-pyrazol-3-one | 260 mg | COCOC=1C=C(C=CC1OCOC)C=CC1=CC=C(C=C1)C=1CC(N(N1)C1=CC=CC=C1)=O | C27H26N2O5
